US09120749B2
4-(4-(6-(3-aminopiperidin-1-yl)pyridin-3-ylamino)-3-(methylsulfonyl)quinolin-6-yl)-2,6-dichlorophenol
To a suspension of tert-butyl 1-(5-(6-bromo-3-(methylsulfonyl)quinolin-4-ylamino)pyridin-2-yl)piperidin-3-ylcarbamate (70 mg, 0.121 mmol), 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (40 mg, 0.142 mmol) and Pd(dppf)Cl2 (9 mg, 0.012 mmol) in dioxane (4 mL) was added Cs2CO3 (182 μL, 2.0 M solution in H2O). N2 gas was bubbled through the reaction mixture, the vessel was sealed and the mixture was then heated microwave irradiation conditions to 140° C. for 30 min. The solution was allowed to cool to rt, then directly subjected to purification by preparatory HPLC. The crude mixture was then treated with TFA to deprotect the pendant amine and reduced to a red-orange residue. This residue was then dissolved in MeOH (2 mL) and treated with a 2.0 M HCl solution in diethyl ether to afford the product (8.2 mg, 10%) as an orange solid: 1H NMR (500 MHz, MeOD) δ 9.03 (s, 1H), 8.27 (d, J=2.7 Hz, 1H), 8.24 (dd, J=8.8, 1.9 Hz, 1H), 8.01 (d, J=8.8 Hz, 1H), 7.93 (d, J=1.9 Hz, 1H), 7.74 (dd, J=9.2, 2.7 Hz, 1H), 7.22 (s, 2H), 7.11 (d, J=9.2 Hz, 1H), 4.60 (s, 1H), 4.05 (d, J=13.5 Hz, 1H), 3.45 (s, 3H), 3.26 (m, 3H), 2.19 (d, J=11.1 Hz, 1H), 1.94 (d, J=11.0 Hz, 1H), 1.71 (m, 2H); ESI MS m/z 558, [C26H25Cl2N5O3S+H]+; HPLC 98.9% (AUC), tR=10.14 min.

reactant | tert-butyl 1-(5-(6-bromo-3-(methylsulfonyl)quinolin-4-ylamino)pyridin-2-yl)piperidin-3-ylcarbamate | 0.121 mmol, 70 mg | BrC=1C=C2C(=C(C=NC2=CC1)S(=O)(=O)C)NC=1C=CC(=NC1)N1CC(CCC1)NC(OC(C)(C)C)=O | C25H30BrN5O4S
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.142 mmol, 40 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
reactant | Cs2CO3 | 2.0 M, 182 μL | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.012 mmol, 9 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(4-(6-(3-aminopiperidin-1-yl)pyridin-3-ylamino)-3-(methylsulfonyl)quinolin-6-yl)-2,6-dichlorophenol | 8.2 mg, 10% | NC1CN(CCC1)C1=CC=C(C=N1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)Cl)O)Cl)S(=O)(=O)C | C26H25Cl2N5O3S
